US05164390
EXAMPLE 30 2-Methyl-6-[1-[1-[bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanylthio]purine 3/4Hydrate
To NaH (2.4 mmol, 115 mg, 50% in oil, pentane washed and decanted), in DMF (5 mL) was added 2-methyl-6-mercaptopurine (400 mg, 2.4 mmol) in portions, at 0° After stirring 2 h 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4,4'- difluorobenzhydryl)piperazine (2.4 mmol, 0.914 g) was added in DMF (5 mL) dropwise over 15 min, at 0° C., under nitrogen. After three days, the solution was filtered and the DMF removed from the filtrate in vacuo (vacuum oven, 1 mm Hg, 60° C.) to give the crude product. Silica gel flash column chromatography using 10% MeOH:CH2Cl2 gave the product with DMF. This product was dried 72 h in vacuo (room temperature, 1 mm Hg) to give pure product (290 mg, 23.2%). mp 83°-86° C. (dec.) DCI/MS (M+1)=511. (300 MHz) 1H NMR (CDCl3)δ: 8.1 (s, 1H), 7.3 (m, 4H), 6.95 (m, 4H), 4.2 (s, 1H), 4.15 (m, 1H), 3.4 and 3.6 (d of d, 2H), 2.65 (s, 3H), 2.6 (M, 6H), 2.4 (m, 4H).

reactant | NaH | 2.4 mmol, 115 mg | [H-].[Na+]
reactant | 2-methyl-6-mercaptopurine | 2.4 mmol, 400 mg | CC1=NC(=C2NC=NC2=N1)S | C6H6N4S
reactant | 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4,4'- difluorobenzhydryl)piperazine | 2.4 mmol, 0.914 g | ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | C20H23ClF2N2O
reactant | MeOH | CO | CH4O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Methyl-6-[1-[1-[bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanylthio]purine | 290 mg, 23.2% | CC1=NC(=C2NC=NC2=N1)SCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | C26H28F2N6OS
